US05545507
Hydroxylamine hydrochloride (17.4 g, 250 mmol.) was dissolved in AR Grade methanol (50 mL) under argon, then added to NaOMe (25% w/w in MeOH) 132 mL, 580 mmol) under argon with ice cooling. A solution of methyl 4-pentylbenzoate, prepared above (25.15 g. 123 mmol) in methanol was then added, and the reaction stirred at room temperature under N2 for 3 days. The reaction mixture was acidified to pH 6 with conc. HCl (caution!). The mixture was filtered and the filtrate evaporated to give a precipitate. This was extracted with CHCl3, the combined extracts dried (MgSO4) and the solvent evaporated. The residue was recrystallised from EtOH to give 4-pentylbenzohydroxamic acid acid as crystals, m.p. 89.9°-90.1° C. (12.35 g, 49%).

reactant | Hydroxylamine hydrochloride | 250 mmol, 17.4 g | Cl.NO
reactant | NaOMe | 580 mmol, 132 mL | C[O-].[Na+]
reactant | methyl 4-pentylbenzoate | C(CCCC)C1=CC=C(C(=O)OC)C=C1 | C13H18O2
reactant | HCl | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 4-pentylbenzohydroxamic acid | C(CCCC)C1=CC=C(C(=O)NO)C=C1 | C12H17NO2
